US05929094
Step D: 4-Bromo-2-methyl-6-nitro-benzooxazole
A solution of 1.15 g of N-(2-bromo-6-hydroxy-4-nitrophenyl)acetamide, 80 mg Tosic acid, 26 mg DMAP, in 25 mL 1,3-dichorobenzene was heated at 170° C. overnight. Reaction was then washed with satd. NaHCO3 and brine, dried over MgSO4, and conc. in vacuo. The product was purified on a silica gel column, eluting with 80% hexane/20% EtOAc. 910 mg of title compound was recovered.

reactant | N-(2-bromo-6-hydroxy-4-nitrophenyl)acetamide | 1.15 g | BrC1=C(C(=CC(=C1)[N+](=O)[O-])O)NC(C)=O | C8H7BrN2O4
reactant | Tosic acid | 80 mg | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
catalyst | DMAP | 26 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | 1,3-dichorobenzene | 25 mL | ClC1=CC(=CC=C1)Cl | C6H4Cl2
product | 4-Bromo-2-methyl-6-nitro-benzooxazole | BrC1=CC(=CC2=C1N=C(O2)C)[N+](=O)[O-] | C8H5BrN2O3
